US09102669B2
1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-1H-indole (Compound #9)
The title compound was prepared according to the procedure as described in Example 1, Method B, reacting 1-(piperidin-4-yl)indole HCl salt and 3-chloro-6-(1-methyl-1H-pyrazol-4-yl)pyridazine.

reactant | 1-(piperidin-4-yl)indole HCl salt | Cl.N1CCC(CC1)N1C=CC2=CC=CC=C12
reactant | 3-chloro-6-(1-methyl-1H-pyrazol-4-yl)pyridazine | ClC=1N=NC(=CC1)C=1C=NN(C1)C | C8H7ClN4
product | 1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-1H-indole | CN1N=CC(=C1)C1=CC=C(N=N1)N1CCC(CC1)N1C=CC2=CC=CC=C12 | C21H22N6
